US09303033B2
4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile hydrochloride (205 mg, 0.62 mmol) was dissolved in anhydrous DMF (1 mL) and the solution was cooled to 0° C. by an external ice bath. POCl3 (115 μL, 1.25 mmol) was added dropwise keeping the internal temperature <5° C. After addition, the ice bath was removed. After 5 h, the solution was poured into H2O (20 mL) and the pH was adjusted to 11 by the addition of 6N NaOH. The solution was allowed to stir for 1 h, and the precipitate was filtered off. The crude product was triturated with EtOH (7 mL), filtered, and dried under high vacuum (1 mmHg) to provide 4-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile (129 mg, 64%) as an orange solid. LCMS (ES): >90% pure, m/z 319 [M+1]+.

reactant | 4-(7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile hydrochloride | 0.62 mmol, 205 mg | Cl.C1(CC1)NC1=CC(=NC=2N1N=CC2)NC2=CC=C(C#N)C=C2
reactant | POCl3 | 1.25 mmol, 115 μL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-ylamino)benzonitrile | 129 mg, 64% | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)NC2=CC=C(C#N)C=C2 | C17H14N6O
